US04360530
2.25 g of 2,2-dimethyl-3-phenyl-2H-azirine and 2 g of 2,6-dimethyl-4-(dimethylamino)benzaldehyde were exposed to light for 3 hours in 350 ml of 1,4-dioxane (with the light source described in Example 2). After purification as described in Example 11 and crystallization from n-pentane, there was obtained 5-[4-(dimethylamino)-2,6-xylyl]-2,2-dimethyl-4-phenyl-3-oxazoline which melted at 105° C. after drying for 4 hours at 60° C. and 13 Torr.

reactant | 2,2-dimethyl-3-phenyl-2H-azirine | 2.25 g | CC1(N=C1C1=CC=CC=C1)C | C10H11N
reactant | 2,6-dimethyl-4-(dimethylamino)benzaldehyde | 2 g | CC1=C(C=O)C(=CC(=C1)N(C)C)C | C11H15NO
solvent | 1,4-dioxane | 350 ml | O1CCOCC1 | C4H8O2
product | 5-[4-(dimethylamino)-2,6-xylyl]-2,2-dimethyl-4-phenyl-3-oxazoline | CN(C1=CC(=C(C(=C1)C)C1C(=NC(O1)(C)C)C1=CC=CC=C1)C)C | C21H26N2O
